US08357693B2
To a solution of 2-methoxyethyl 4-methoxy-3-(2-methoxyethoxy)benzoate (15.05 g, 52.9 mmol) in AcOH (54 mL) under an atmosphere of N2 was added conc. HNO3 (13.5 mL) in one portion. The reaction was stirred at RT for 72 h. The mixture was poured into ice-water (ca. 800 mL) and extracted with EtOAc (2×400 mL). The combined organics were washed with water (2×200 mL) and brine (1×200 mL), dried (Na2SO4) and conc. in vacuo. The residue was azeotroped with heptane (2×300 mL) to remove residual AcOH giving 2-methoxyethyl 4-methoxy-5-(2-methoxyethoxy)-2-nitrobenzoate as a dark colored oil. (15.5 g, 47.1 mmol, 89%). HPLC retention time 6.24 mins.

reactant | 2-methoxyethyl 4-methoxy-3-(2-methoxyethoxy)benzoate | 52.9 mmol, 15.05 g | COC1=C(C=C(C(=O)OCCOC)C=C1)OCCOC | C14H20O6
reactant | HNO3 | 13.5 mL | [N+](=O)(O)[O-] | HNO3
solvent | AcOH | 54 mL | CC(=O)O | C2H4O2
product | 2-methoxyethyl 4-methoxy-5-(2-methoxyethoxy)-2-nitrobenzoate | COC1=CC(=C(C(=O)OCCOC)C=C1OCCOC)[N+](=O)[O-] | C14H19NO8
